US08912186B2
By a procedure similar to that of example 1.59.1, starting from 4-biphenylcarboxaldehyde and acetophenone, 3-(biphenyl-4-yl)-1-phenylprop-2-en-1-one was obtained as yellowish solid.

reactant | 4-biphenylcarboxaldehyde | C1(=CC=C(C=C1)C=O)C1=CC=CC=C1 | C13H10O
reactant | acetophenone | C(C)(=O)C1=CC=CC=C1 | C8H8O
product | 3-(biphenyl-4-yl)-1-phenylprop-2-en-1-one | C1(=CC=C(C=C1)C=CC(=O)C1=CC=CC=C1)C1=CC=CC=C1 | C21H16O
